US06093718
2,6-Dimethyl-4-chloro-pyrimidine (1.0 g) in ethanol (10 ml) was added slowly to a solution of ethyl isonipecotate (1.1 g) and triethylamine (2.0 ml) in ethanol (20 ml). The reaction was stirred at room temperature overnight. The solvent was removed in vacuo and the residue was partitioned between ethyl acetate and water, washed with water (2×50 ml), dried and evaporated to give 1-(2,6-dimethylpyrimidin-4-yl)-4-(ethoxycarbonyl)piperidine as an oil (1.71 g); NMR (CDCl3): 1.25 (t, 3H), 1.65-1.80 (m, 4H), 1.95-2.00 (m, 2H), 2.55 (s, 3H), 2.45 (s, 3H), 2.50-2.60 (m, 1H), 3.00 (dt, 2H), 4.15 (q, 2H), 4.35 (d, 2H), 6.2 (s, 1H).

reactant | 2,6-Dimethyl-4-chloro-pyrimidine | 1.0 g | CC1=NC(=CC(=N1)Cl)C | C6H7ClN2
reactant | ethyl isonipecotate | 1.1 g | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(2,6-dimethylpyrimidin-4-yl)-4-(ethoxycarbonyl)piperidine | 1.71 g | CC1=NC(=CC(=N1)N1CCC(CC1)C(=O)OCC)C | C14H21N3O2
